US07652022B2
Stage 16.1: N-(4-Ethyl-phenyl)-2-(4-hydroxy-phenyl)-acetamide
4-Hydroxyphenyl acetic acid (1.55 g, 10.2 mmol), 4-ethyl-phenylamine (1.28 ml, 10.3 mmol), TBTU (4.82 g, 15 mmol), and NMM (8.79 ml, 80 mmol) are stirred in DMF (30 ml) at rt for 5 h. The reaction mixture is taken up in AcOEt (0.2 L), washed with H2O (40 ml, 2×) and brine (40 ml, 2×), dried (Na2SO4), concentrated under reduced pressure, and flash chromatographed (silica gel, 3.5×25 cm, AcOEt/hexane=1:2→2:3) giving the title compound of Stage 16.1 as a colorless solid (1.68 g, 6.59 mmol; 66%) M+H=256.1; 1H-NMR (400 MHz, DMSO-d6): 10.0/9.24 (s/s, 1H, NH/OH), 7.46 (d, 8.5 Hz, 2H, phenyl), 7.09 (d, 8.5 Hz, 4H, phenyl), 6.66 (d, 8.5 Hz, 2H, phenyl), 3.47 (s, 2H, aryl-CH2), 2.53 (qu, 7.5 Hz, 2H, CH2), 1.13 (t, 7.5 Hz, 3H, CH3); R. (AcOEt/hexane=1:1): 0.66; m.p. =146-148° C.

reactant | 4-Hydroxyphenyl acetic acid | 10.2 mmol, 1.55 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | 4-ethyl-phenylamine | 10.3 mmol, 1.28 ml | C(C)C1=CC=C(C=C1)N | C8H11N
reactant | TBTU | 15 mmol, 4.82 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | 80 mmol, 8.79 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | 0.2 L | CCOC(=O)C | C4H8O2
product | N-(4-Ethyl-phenyl)-2-(4-hydroxy-phenyl)-acetamide | C(C)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)O)=O | C16H17NO2
